Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
Percutaneous coronary intervention ___

 
History of Present Illness:
___ year old male with HTN, HLD, pre-diabetes who developed acute
onset of chest pain on ___, presented to OSH on ___ around
8PM, found to have a late presenting STEMI. 
He experienced substernal chest pain after entering the store
where he works on the night of ___. Denied associated sob, light
headedness, diaphoresis, nausea, and the pain did not radiate to
shoulders or back. He has never had this chest pain in the past.
He initially thought it might be GERD and took an antacid pill.
he then went to sleep and woke up ___ with continued mild chest
pain at which point he called his PCP ___. At PCP ___ ___ he
was tachycardic to 120s and EKG showed new fro ___ q waves in
inferior leads and he was sent to CHA ED, at which time he was
pain free. EKG there consistent w/ inferior posterior NSTEMI.
Troponin was 50.70, and downtrended to 44.
He was started on a heparin drip, ASA, atorvastatin, and
transferred today to ___ for cath. On arrival here TropT was
2.76-->2.74--> 2.37 w/ EKG showing T wave inversions and Q waves
in II, III, aVF w/ <1mm ST elevations and R>S in V1-V2 
consistent
with inferoposterior involvement. He had cath through the R
radial artery ___, was loaded with ticagralor and was found 
to
have a sub-total occlusion (ruptured plaque) of the mid
Lcircumflex, one DES in mid LCx was placed, and he was
transferred to the floor for medical management. 

 
Past Medical History:
- pre-Diabetes  
- Hypertension  
- Dyslipidemia  
- Microscopic hematuria
 
Social History:
___
Family History:
sister has hypertension and stroke
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
GENERAL: Well developed, well nourished, in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: JVP of 8 cm.  
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs,
rubs, or gallops. no thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes, R radial site is
clean w/ normal cap refill, 2+ radial pulse 
PULSES: Distal pulses palpable and symmetric

DISCHARGE PHYSICAL EXAM:
VS: T 98.1 BP 121/77 HR 90 RR 16 O2SAT 98% RA
GENERAL: Well developed, well nourished, in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple neck.  JVP does not appear elevated.
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs,
rubs, or gallops. no thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  There is some mild swelling and ecchymosis to
the right radial site with some mild tenderness to palpation
there are good distal pulses.
SKIN: No significant skin lesions or rashes, R radial site is
clean w/ normal cap refill, 2+ radial pulse 
PULSES: Distal pulses palpable and symmetric.  

 
Pertinent Results:
ADMISSION LABS:
___ 03:10AM BLOOD WBC-7.7 RBC-4.32* Hgb-13.6* Hct-40.6 
MCV-94 MCH-31.5 MCHC-33.5 RDW-12.2 RDWSD-42.1 Plt ___
___ 03:10AM BLOOD Neuts-51.8 ___ Monos-9.4 Eos-2.7 
Baso-0.8 Im ___ AbsNeut-4.01 AbsLymp-2.71 AbsMono-0.73 
AbsEos-0.21 AbsBaso-0.06
___ 03:10AM BLOOD ___ PTT-120.6* ___
___ 03:10AM BLOOD Glucose-129* UreaN-12 Creat-0.9 Na-141 
K-4.2 Cl-105 HCO3-24 AnGap-12
___ 03:10AM BLOOD CK(CPK)-1016*
___ 03:10AM BLOOD CK-MB-62* MB Indx-6.1*
___ 03:10AM BLOOD cTropnT-2.76*
___ 06:05AM BLOOD cTropnT-2.74*
___ 08:25AM BLOOD cTropnT-2.37*
___ 03:10AM BLOOD Calcium-9.3 Phos-2.5* Mg-2.2

DISCHARGE LABS:
___ 06:18AM BLOOD WBC-7.8 RBC-3.96* Hgb-12.4* Hct-37.5* 
MCV-95 MCH-31.3 MCHC-33.1 RDW-12.3 RDWSD-42.8 Plt ___
___ 06:18AM BLOOD ___ PTT-27.8 ___
___ 06:18AM BLOOD Ret Aut-1.1 Abs Ret-0.04
___ 06:18AM BLOOD Glucose-99 UreaN-19 Creat-0.9 Na-143 
K-4.3 Cl-109* HCO3-22 AnGap-12
___ 06:18AM BLOOD Calcium-9.0 Phos-2.5* Mg-1.9 Cholest-131
___ 06:18AM BLOOD %HbA1c-6.2* eAG-131*
___ 06:18AM BLOOD Triglyc-74 HDL-36* CHOL/HD-3.6 LDLcalc-80

IMAGING:

Coronary Catheterization ___
The left main, left anterior descending, and right coronary 
artery have no angiographically significant
coronary abnormalities. The mid circumflex had a hazy subtotal 
occlusion (ruptured plaque) with TIMI
2 flow.
Interventional Details
Percutaneous Coronary Intervention: Percutaneous coronary 
intervention (PCI) was performed on an ad
hoc basis based on the coronary angiographic findings from the 
diagnostic portion of this procedure. A 6
___ EBU3.5 guide provided adequate support. Crossed with a 
Sion Blue wire into the distal LCx.
Predilated with a 2.5 mm balloon and then deployed a 2.75mm x 
18mm DES at 14 atm. Postdilated with
a 2.75mm NC balloon to 18 atm. Final angiography revealed normal 
flow, no dissection and 0% residual
stenosis. The patient left the cath lab angina-free and in 
stable condition.

TTE ___
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect by 2D/color
Doppler. The estimated right atrial pressure is ___ mmHg. There 
is mild symmetric left ventricular
hypertrophy with a normal cavity size. There is mild regional 
left ventricular systolic dysfunction with
basal to mid inferior and mid to distal inferolateral 
hypokinesis (see schematic). Quantitative biplane
left ventricular ejection fraction is 50 % (normal 54-73%). Left 
ventricular cardiac index is normal
(>2.5 L/min/m2). There is no resting left ventricular outflow 
tract gradient. No ventricular septal defect
is seen. Diastolic parameters are indeterminate. Normal right 
ventricular cavity size with normal free
wall motion. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for
gender. The aortic arch diameter is normal. There is no evidence 
for an aortic arch coarctation. The
aortic valve leaflets (3) are mildly thickened. There is no 
aortic valve stenosis. There is no aortic
regurgitation. The mitral valve leaflets are mildly thickened 
with no mitral valve prolapse. There is
trivial mitral regurgitation. The pulmonic valve leaflets are 
normal. The tricuspid valve leaflets appear
structurally normal. There is physiologic tricuspid 
regurgitation. The estimated pulmonary artery
systolic pressure is normal. There is no pericardial effusion.

 
Brief Hospital Course:
TRANSITIONAL ISSUES 
======================= 
Discharge weight: 144.84 lbs
Discharge creatinine: 0.9
Discharge hemoglobin: 12.4 

[ ] Patient has A1c of 6.2, pre-diabetes. Would consider 
starting metformin as outpatient
[ ] Patient started on metoprolol and atorvastatin for medical 
optimization of CAD. Would like to start ACE-I but SBPs have 
been in ___. Consider starting ACE-I in near future if BPs 
permit
[ ] Consider imdur if recurrent chest pain as outpatient for 
antianginal management 
[ ] Patient has follow up appointment with Dr. ___ on ___
[ ] Patient reports follow up appointment with PCP ___ on 
___, 4 days from discharge
[ ] LDL 80, repeat lipids in ___ months on high dose statin 
[ ] if ticagrelor not covered by insurance, may need to obtain 
prior authorization or switch to clopidogrel 
[ ] will need to have ticagrelor 90mg BID for ___ year, then would 
consider decreasing to 60mg BID

- NEW MEDS ticagrelor 90 mg BID, aspirin 81 mg daily, 
atorvastatin 80 mg daily, metoprolol succinate 50 mg daily, 0.3 
mg sublingual nitroglycerin prn
- CHANGED MEDS none
- DISCONTINUED MEDS none

#Code status: full code presumed

___ year old man with pre-diabetes (A1C 6.2) and 40-pack-year 
smoking history (quit ___ who presented to outside hospital 
with chest pain, was found to have EKG changes and elevated 
troponins, was transferred to ___ for cath and found
to have STEMI, now status post DES placed to the mid left 
circumflex and admitted to ___ for medical optimization. 

==============
ACTIVE ISSUES:
==============
# Late presenting STEMI
# s/p DES to mid L circumflex:
Presented to OSH after one day of chest pain, had elevated 
troponin and EKG showing new T wave inversions and Q waves in 
II, III, aVF with <___levations and R>S in V1-V2 
consistent with inferoposterior territory involvement. Cath ___ 
confirmed mid L circ subtotal occlusion with ruptured plaques 
and Onyx DES was placed. The patient was chest pain free after 
cath and had no other symptoms. Subsequently, TTE showed a 
preserved EF of 50% and mild regional systolic dysfunction with 
basal to mid inferior and mid to distal inferolateral 
hypokinesis, consistent with his single vessel disease. There 
was no significant valvular stenosis or regurgitation and he had 
normal pulmonary pressure. The patient was not on any 
medications on admission though he reported a history of 
hypertension, hyperlipidemia, and pre-diabetes, as well as a 
40-pack-year history of smoking. In hospital, the patient was 
not hypertensive and lipids were within normal range except for 
low HDL. A1c was 6.2. He was started on DAPT with ticagrelor as 
well as metoprolol and atorvastatin. Plan for ticagrelor 90 mg 
BID for one year and 60 mg BID thereafter. BP is low-normal so 
did not begin ACE-I but would consider in near future for 
remodeling benefits if patient can tolerate.

# Pre-diabetes: 
Patient with A1c 6.2%. Counseled on diet and exercise changes. 
Would recommend metformin as outpatient. 

I saw and examined the patient, reviewed the note, and agree 
with the plan as outlined.

>30 minutes spent at patient's bedside/coordination of 
care/discharge planning.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyanocobalamin 1000 mcg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Metoprolol Succinate XL 50 mg PO DAILY  
4.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
5.  TiCAGRELOR 90 mg PO BID to prevent stent thrombosis  
6.  Cyanocobalamin 1000 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS 
==================
ST elevation myocardial infarction

SECONDARY DIAGNOSIS
====================
Pre-diabetes

PRIMARY DIAGNOSIS 
==================
ST elevation myocardial infarction

SECONDARY DIAGNOSIS
====================
Pre-diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
 
It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================   
- You went to the hospital because you had chest pain. You were 
admitted because you were found to have had a heart attack. 

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- Your heart arteries were examined (cardiac catheterization) 
which showed a blockage of one of the arteries (called "the left 
circumflex"). This was opened by placing a tube called a stent 
in the artery. You were given medications to prevent future 
blockages.  
- It is very important to take your aspirin and ticagrelor (also 
known as Brilinta) every day. 
- These two medications keep the stents in the vessels of the 
heart open and help reduce your risk of having a future heart 
attack.  
- If you stop these medications or miss ___ dose, you risk causing 
a blood clot forming in your heart stents and having another 
heart attack!!
- Please do not stop taking either medication without taking to 
your heart doctor. You will likely take aspirin for the rest of 
your life. You will take 90 mg of ticagrelor twice daily for one 
year and then 60 mg twice daily thereafter.  
- You are also on other new medications to help your heart 
called atorvastatin and metoprolol. Atorvastatin suppresses 
inflammation and metoprolol slows the heart rate.
- Your primary care doctor and/or cardiologist may start 
additional medications to help your heart.
- You were also found to have pre-diabetes. Lowering your 
diabetes risk will lower your risk of having progressive heart 
disease.  

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take all your medications and attend you 
appointment with Dr. ___ on ___ at 3:40 ___ on the ___ 
floor of the ___ on ___ at ___.
- Attend your appointment with Dr. ___. 
- If you are having any chest pain, shortness of breath, 
palpitations, dizziness or any other symptoms that concern you 
please call your doctor or go the emergency room 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Team  

Dear Mr. ___,
 
It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================   
- You went to the hospital because you had chest pain. You were 
admitted because you were found to have had a heart attack. 

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- Your heart arteries were examined (cardiac catheterization) 
which showed a blockage of one of the arteries (called "the left 
circumflex"). This was opened by placing a tube called a stent 
in the artery. You were given medications to prevent future 
blockages.  
- It is very important to take your aspirin and ticagrelor (also 
known as Brilinta) every day. 
- These two medications keep the stents in the vessels of the 
heart open and help reduce your risk of having a future heart 
attack.  
- If you stop these medications or miss ___ dose, you risk causing 
a blood clot forming in your heart stents and having another 
heart attack!!
- Please do not stop taking either medication without taking to 
your heart doctor. You will likely take aspirin for the rest of 
your life. You will take 90 mg of ticagrelor twice daily for one 
year and then 60 mg twice daily thereafter.  
- You are also on other new medications to help your heart 
called atorvastatin and metoprolol. Atorvastatin suppresses 
inflammation and metoprolol slows the heart rate.
- Your primary care doctor and/or cardiologist may start 
additional medications to help your heart.
- You were also found to have pre-diabetes. Lowering your 
diabetes risk will lower your risk of having progressive heart 
disease.  

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take all your medications and attend you 
appointment with Dr. ___ on ___ at 3:40 ___ on the ___ 
floor of the ___ on ___ at ___.
- Attend your appointment with Dr. ___. 
- If you are having any chest pain, shortness of breath, 
palpitations, dizziness or any other symptoms that concern you 
please call your doctor or go the emergency room 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  

 
Followup Instructions:
___